US07465731B2
To a suspension of methyl (2E)-3-{5-[(3R)-3-pyrrolidinylamino]-2-pyrazinyl)acrylate dihydrochloride (260 mg) in CH2Cl2 (2.6 mL) was added N,N-diisopropylethylamine (282 uL), 2-methoxybenzaldehyde (121.2 mg), and sodium triacetoxyborohydride (343 mg), which was stirred at room temperature for 1 hour. To the resultant was added sat. NaHCO3 aq., which was stirred for 20 min. The mixture was extracted with CH2Cl2. The organic phase was washed with brine and dried over Na2SO4, filtered, and evaporated in vacuo. The residue was purified by column chromatography on silica gel to give methyl (2E)-3-(5-{[(3R)-1-(2-methoxybenzyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)acrylate (193 mg) as a yellow amorphous.

reactant | methyl (2E)-3-{5-[(3R)-3-pyrrolidinylamino]-2-pyrazinyl)acrylate dihydrochloride | 260 mg | Cl.Cl.N1C[C@@H](CC1)NC=1N=CC(=NC1)/C=C/C(=O)OC
reactant | N,N-diisopropylethylamine | 282 uL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-methoxybenzaldehyde | 121.2 mg | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | sodium triacetoxyborohydride | 343 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 2.6 mL | C(Cl)Cl | CH2Cl2
product | methyl (2E)-3-(5-{[(3R)-1-(2-methoxybenzyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)acrylate | 193 mg | COC1=C(CN2C[C@@H](CC2)NC=2N=CC(=NC2)/C=C/C(=O)OC)C=CC=C1 | C20H24N4O3
